US09127007B2
(a). ethyl 8,9-dimethoxy-5,6-dihydropyrrolo[2,1-a]isoquinoline-2-carboxylate
To a mixture of 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline (2 g) and potassium carbonate (2.4 g) in ethanol (50 ml) was added dropwise ethylbromopyruvate (1.22 ml). The reaction mixture was refluxed for 3 hrs. The reaction was allowed to cool to ambient temperature before a saturated aqueous NaHCO3 solution was added. The aqueous phase was extracted with ethyl acetate twice. The combined organic layers were washed with brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with heptane and increasing amounts of ethyl acetate.

reactant | 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline | 2 g | CC1=NCCC2=CC(=C(C=C12)OC)OC | C12H15NO2
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylbromopyruvate | 1.22 ml | C(C)C(C(C(=O)[O-])=O)Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 8,9-dimethoxy-5,6-dihydropyrrolo[2,1-a]isoquinoline-2-carboxylate | COC=1C=C2CCN3C(C2=CC1OC)=CC(=C3)C(=O)OCC | C17H19NO4
